US09212190B2
Synthesis of 3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2,2-difluoropropanamide (I-144)
A solution of NH3 (g) was transferred into ethanol (20 mL) over 30 min. This was followed by the addition of methyl 3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2,2-difluoropropanoate (103 mg, 0.23 mmol, 1.00 equiv). The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The crude product (100 mg) was purified by preparative HPLC under the following conditions (1#-Pre-HPLC-016(Waters)): column: XBridge Prep C18 OBD column: 5 um, 19*150 mm; mobile phase: water (50 mM NH4HCO3) and CH3CN (14.0% CH3CN up to 33.0% in 12 min, up to 95.0% in 1 min, down to 14.0% in 2 min); Detector, UV 254/220 nm. The product was freeze-dried. This resulted in 3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2,2-difluoropropanamide (41.3 mg, 42%) as a white solid. 1H NMR (300 MHz, CD3OD): δ 8.51 (s, 1H), 5.30-5.23 (m, 1H), 3.66-3.51 (m, 1H), 3.32-2.70 (m, 4H), 2.51-2.01 (m, 13H), 1.74-1.44 (m, 4H). MS: m/z 425 (M+H)+.

reactant | NH3 | N | H3N
reactant | methyl 3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2,2-difluoropropanoate | 0.23 mmol, 103 mg, 1.00 equiv | CN(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(C(=O)OC)(F)F)C | C21H27F2N3O3S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-[(3R)-12-[[4-(dimethylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]-2,2-difluoropropanamide | CN(C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(C(=O)N)(F)F)C | C20H26F2N4O2S
